US06495576B2
3-(5-Bromo-6-fluoro-pyridin-3-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione
A solution of 2-fluoro-3-bromo-5-aminopyridine and 3,4-diethoxy-3-cyclobutene-1,2-dione in ethanol was processed as described in Example 1A to provide the title compound.

reactant | 2-fluoro-3-bromo-5-aminopyridine | FC1=NC=C(C=C1Br)N | C5H4BrFN2
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | C(C)O | C2H6O
product | 3-(5-Bromo-6-fluoro-pyridin-3-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione | BrC=1C=C(C=NC1F)NC=1C(C(C1OCC)=O)=O | C11H8BrFN2O3
